US07253192B2
A] 2-(4-But-3-ynyloxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester
2.38 g (10.00 mmol) 2-(4-hydroxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester (described in WO 02/092590) and 1.63 g (5.00 mmol) Cs2CO3 were heated in 25 ml acetonitrile at reflux for 5 min. 2.34 (10.0 mmol) 3-Butynyl tosylate was added and heating was continued for 2.5 h. Then 1.63 g (5.00 mmol) Cs2CO3 and 2.34 (10.0 mmol) of 3-butynyl tosylate were added and the mixture was stirred at 60° C. (2.5 h). The temperature was raised to 95° C. and stirring continued for 12 h. Every 3 h 1.63 g (5.0 mmol) Cs2CO3 and 2.34 g (10.0 mmol) of 3-butynyl tosylate were added. The solvent was evaporated and the residue was redissolved in dichloromethane, dried (Na2SO4), filtered and evaporated. Purification by flash chromatography (SiO2, n-heptane/EtOAc 2.5%) yielded 0.67 g of the title compound as light yellow oil.

reactant | 2-(4-hydroxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester | 10.00 mmol, 2.38 g | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)O)C)=O | C13H18O4
reactant | Cs2CO3 | 5.00 mmol, 1.63 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 3-Butynyl tosylate | S(=O)(=O)(OCCC#C)C1=CC=C(C)C=C1 | C11H12O3S
reactant | Cs2CO3 | 5.00 mmol, 1.63 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | Cs2CO3 | 5.0 mmol, 1.63 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 3-butynyl tosylate | 10.0 mmol, 2.34 g | S(=O)(=O)(OCCC#C)C1=CC=C(C)C=C1 | C11H12O3S
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 2-(4-But-3-ynyloxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester | 0.67 g | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)OCCC#C)C)=O | C17H22O4
